US05276150
3. Synthesis of 2-cyanoethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridylpyridine-3-carboxylate
A mixture of 5.365 g (20 mmol) of 4-(3-n1trophenyl)-3-pyridyl-3-butene-2-one, 15.417 g (100 mmol) of 2-cyanoethyl 3-aminocrotonate, 5.451 g (40 mmol) of zinc chloride, and 10 g of Molecular Shieves 4A was added to 1,4-dioxane. This reaction mixture was refluxed with application of heat in an inert atmosphere for 5 hours. The reaction mixture was then cooled to room temperature and neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The solvents contained in the extract were distilled off and the residue was chromatographed on a silica gel column, whereby the captioned compound was obtained. The yield was 7.94 g (87%).

reactant | 4-(3-n1trophenyl)-3-pyridyl-3-butene-2-one | 20 mmol, 5.365 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C=NC=C1)CC(C=C)=O | C15H12N2O3
reactant | 2-cyanoethyl 3-aminocrotonate | 100 mmol, 15.417 g | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 40 mmol, 5.451 g | [Cl-].[Zn+2].[Cl-]
product | 2-cyanoethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-5-pyridylpyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OCCC#N)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC=CC=C1)C | C22H20N4O4
